US07678815B2
A three-necked flask equipped with a mechanical stirrer, a dropping funnel and an argon inlet was charged with anhydrous tetrahydrofurane (THF) (25.00 ml). Solid potassium tert-butylate (5.46 g, 44.20 mmol) was added and the slurry was stirred until dissolution was complete. The mixture was cooled to −40° C. by means of a dry ice/acetone bath. A solution of isocyano-acetic acid ethyl ester (5.00 g, 44.20 mmol) and 3-isothiocyanato-pyridine (6.02 g, 44.20 mmol) in anhydrous THF (50.00 ml) was added dropwise via the dropping funnel at such a rate that the temperature did not exceed −35° C. and the mixture remained homogeneously stirred (a thick precipitate forms). After addition was complete, the mixture was stirred for further 1 hour letting the temperature free to rise. The reaction was quenched by addition of glacial acetic acid (2.50 ml). The mixture was diluted with THF and ethyl acetate and filtered through celite. The filtrate was evaporated to a dark yellow solid residue, which was purified by flash chromatography (heptane/ethyl acetate) to yield 5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid ethyl ester (4.85 g, 44%) as a light yellow solid, MS (ISP): m/e=250.2 (M+H+).

reactant | potassium tert-butylate | 44.20 mmol, 5.46 g | CC(C)(C)[O-].[K+]
reactant | isocyano-acetic acid ethyl ester | 44.20 mmol, 5.00 g | C(C)OC(C[N+]#[C-])=O | C5H7NO2
reactant | 3-isothiocyanato-pyridine | 44.20 mmol, 6.02 g | N(=C=S)C=1C=NC=CC1 | C6H4N2S
solvent | THF | 50.00 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 25.00 ml | O1CCCC1 | C4H8O
product | 5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid ethyl ester | 4.85 g, 44% | C(C)OC(=O)C=1N=CSC1NC=1C=NC=CC1 | C11H11N3O2S
